US07183276B2
A mixture of 3-[2-chloro-4-(4-chlorophenyl)-5-oxazolyl]propionic acid (1.0 g), 1-phenylpiperazine (2.27 g), potassium carbonate (2.42 g) and N,N-dimethylformamide (20 mL) was stirred at 100° C. for 3 hrs. The reaction mixture was poured into aqueous ammonium chloride solution and the mixture was extracted with ethyl acetate, washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography and 3-[4-(4-chlorophenyl)-2-(4-phenyl-l-piperazinyl)-5-oxazolyl]propionic acid (0.76 g, yield 53%) was obtained as a powder from a fraction eluted with ethyl acetate-chloroform-methanol (10:10:1, volume ratio). Recrystallization from ethyl acetate gave colorless prism crystals. melting point: 177–178° C.

reactant | 3-[2-chloro-4-(4-chlorophenyl)-5-oxazolyl]propionic acid | 1.0 g | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCC(=O)O | C12H9Cl2NO3
reactant | 1-phenylpiperazine | 2.27 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | potassium carbonate | 2.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 3-[4-(4-chlorophenyl)-2-(4-phenyl-l-piperazinyl)-5-oxazolyl]propionic acid | 0.76 g, yield 53% | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)O)N1CCN(CC1)C1=CC=CC=C1 | C22H22ClN3O3
